US09226916B2
rac-{(3R,4S)-4-(3,4-Dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid cyclopropylmethyl ester
To a solution of 1,1′-carbonyl-diimidazole (102 mg, 0.627 mmol) in dioxane (1 mL) was added hydroxymethylcyclopropane (55 μl, 0.68 mmol). After stirring for 15 min at ambient temperature rac-{4-[(3S,4R)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone (50 mg, 0.11 mmol) was added and the solution was irradiated in the microwave for 900 s at 170° C. and 1800 s at 200° C. The reaction mixture was diluted with ethyl acetate (15 mL) and washed with water (15 mL) and brine (15 mL). The organic layers were extracted with ethyl acetate, dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, ethyl acetate:methanol=100:0 to 85:15) afforded the title compound (21 mg, 34%) as a light brown oil. MS m/e: 536.4 [M]+.

reactant | 1,1′-carbonyl-diimidazole | 0.627 mmol, 102 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydroxymethylcyclopropane | 0.68 mmol, 55 μl | OCC1CC1 | C4H8O
reactant | rac-{4-[(3S,4R)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone | 0.11 mmol, 50 mg | ClC=1C=C(C=CC1Cl)[C@H]1CN(C[C@@H]1NC)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C22H29Cl2N3O2
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | rac-{(3R,4S)-4-(3,4-Dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid cyclopropylmethyl ester | 21 mg, 34% | C1(CC1)COC(N(C)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)C1CCN(CC1)C(=O)C1(CC1)C)=O | C27H35Cl2N3O4
